US07700641B2
Synthesis of 1′-hexylspiro[1,3-dioxolo[4,5-g]chromene-8,3′-indole]-2′,6(1′H,7H)-dione
To a solution of 2-(1-hexyl-3-(6-hydroxybenzo[d][1,3]dioxol-5-yl)-2-oxoindolin-3-yl)acetate (0.19 g, 0.43 mmol) in THF:H2O (2:1) was added lithium hydroxide (0.04 g, 0.86 mmol). The mixture was stirred at ambient temperature for 4 hrs. The organic solvent was removed in vacuo and the pH of the aqueous residue was adjusted to 2 followd by extraction with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo to dryness and the residue was subjected to column chromatography eluting with 25% ethyl acetate/hexane to yield the title compound (0.09 g, 53%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 7.33 (dt, 1H), 7.14-7.03 (m, 2H), 6.93 (d, 1H), 6.66 (s, 1H), 6.06 (s, 1H), 5.88 (dd, 2H), 3.76-3.63 (m, 2H), 2.94 (q, 2H), 1.69-1.62 (m, 2H) 1.34-1.22 (m, 6H), 0.83 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 175.9, 165.8, 148.3, 147.2, 144.6, 142.6, 129.9, 129.6, 123.8, 123.4, 114.7, 109.2, 105.1, 101.9, 99.8, 49.6, 40.3, 37.2, 31.2, 27.2, 26.4, 22.4, 13.9; MS (ES+) m/z 394.5 (M+1).

reactant | 2-(1-hexyl-3-(6-hydroxybenzo[d][1,3]dioxol-5-yl)-2-oxoindolin-3-yl)acetate | 0.43 mmol, 0.19 g | C(CCCCC)N1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)CC(=O)[O-])=O
reactant | lithium hydroxide | 0.86 mmol, 0.04 g | [OH-].[Li+]
solvent | THF H2O | C1CCOC1.O
product | 1′-hexylspiro[1,3-dioxolo[4,5-g]chromene-8,3′-indole]-2′,6(1′H,7H)-dione | 0.09 g, 53% | C(CCCCC)N1C(C2(C3=CC=CC=C13)CC(OC=1C=C3C(=CC12)OCO3)=O)=O | C23H23NO5
